US06498165B1
2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-(furan-3-yl)pyrimidine
The title compound was prepared from 2-[1-(3-nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine and furan-3-boronic acid according to the precedure described in EXAMPLE 306, Step C and using [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(H) as catalyst. Mass spectrum (CH3CN/TFA/NH4O2CH/ESI) 427.0 (M+1).

reactant | 2-[1-(3-nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)Cl | C19H15ClN6O2
reactant | furan-3-boronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | CH3CN TFA | CC#N.C(=O)(C(F)(F)F)O
product | 2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-(furan-3-yl)pyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)C2=COC=C2 | C23H18N6O3
